US08119666B2
C. (2-Methanesulfonylphenyl)-methanol
To a solution of 2-methanesulfonylbenzoic acid methyl ester (1.5 g, 7 mmol) in THF (20 mL) is added LiBH4 (616 mg, 30 mmol) and the mixture is stirred at ambient temperature for 14 h. Additional LiBH4 (310 mg, 15 mmol) is added and the mixture is heated at 65° C. for 45 min. Then under ice cooling, 1N HCl solution is added to quench the excess of LiBH4 before EtOAc is added. The organic layer is washed with brine (2×) and water (1×), dried with MgSO4, and concentrated to give the title compound.

reactant | 2-methanesulfonylbenzoic acid methyl ester | 7 mmol, 1.5 g | COC(C1=C(C=CC=C1)S(=O)(=O)C)=O | C9H10O4S
reactant | LiBH4 | 30 mmol, 616 mg | [Li+].[BH4-]
reactant | LiBH4 | 15 mmol, 310 mg | [Li+].[BH4-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-Methanesulfonylphenyl)-methanol | CS(=O)(=O)C1=C(C=CC=C1)CO | C8H10O3S
